US07329658B2
Preparation of 7-(2-Chlorophenyl)-8-(4-chlorophenyl)-4-ethoxy-2-methylpyrazolo[1,5-a][1,3,5]triazine (12A-1)
To a solution of 4-chloro-7-(2-chlorophenyl)-8-(4-chlorophenyl)-2-methylpyrazolo[1,5-a][1,3,5]triazine (I-2A-1b; 20 mg, 0.051 mmol) in ethanol (1 ml) was added NaH (60% dispersion in oil, 2 mg, 0.05 mmol), portionwise. After stirring for 6 hours, the reaction was concentrated, in vacuo. The residue was redisolved in methylene chloride, filtered through a 0.45 μm disk, and then concentrated to afford 12A-1 (18 mg, 88%) as a solid: +APcI MS (M+1) 399.1; 1H NMR (400 MHz, CD2Cl2) δ 7.50-7.37 (m, 6H), 7.24 (d, J=8.7 Hz, 2H), 4.80 (q, J=7.2 Hz, 2H), 2.63 (s, 3H), 1.57 (t, J=7.1 Hz, 3H).

reactant | 4-chloro-7-(2-chlorophenyl)-8-(4-chlorophenyl)-2-methylpyrazolo[1,5-a][1,3,5]triazine | 0.051 mmol, 20 mg | ClC1=NC(=NC=2N1N=C(C2C2=CC=C(C=C2)Cl)C2=C(C=CC=C2)Cl)C | C18H11Cl3N4
reactant | NaH | 0.05 mmol, 2 mg | [H-].[Na+]
reactant | ethanol | 1 ml | C(C)O | C2H6O
product | 7-(2-Chlorophenyl)-8-(4-chlorophenyl)-4-ethoxy-2-methylpyrazolo[1,5-a][1,3,5]triazine | ClC1=C(C=CC=C1)C1=NN2C(N=C(N=C2OCC)C)=C1C1=CC=C(C=C1)Cl | C20H16Cl2N4O
